US08877780B2
5.45 N-[[2-[(3S)-3-METHYL-2,6-DIOXOPIPERIDIN-3-YL]-1,3-DIOXOISOINDOLIN-5-YL]METHYL]-4-(METHYLSULFONYL) BENZAMIDE
A mixture of 4-(methylsulfonyl)benzoic acid (0.40 g, 2.0 mmol) and CDI (0.36 g, 2.2 mmol) in DMF (20 mL) was stirred under nitrogen at 40° C. for 2 hours. Then, 5-aminomethyl-2-[(3S)-3-methyl-2,6-dioxo-piperidin-3-yl]-isoindole-1,3-dione hydrochloride (0.67 g, 2.0 mmol) was added, and stirring proceeded at this temperature for an additional 2 hours. The mixture was cooled to room temperature, and was partitioned between ethyl acetate (100 mL) and saturated aqueous sodium bicarbonate solution (100 mL). The organic phase was washed with saturated aqueous sodium bicarbonate solution (2×100 mL) and evaporated. The residue was chromatographed on silica gel using 99:1 methylene chloride-methanol as the mobile phase, providing 0.30 g, in 32% yield. The product was obtained as a white solid; mp 165.5-167.5° C.; HPLC, Waters Symmetry C-18, 3.9×150 mm, 5 μm, 1 mL/min, 240 nm, 30/70 CH3CN/0.1% H3PO4, 4.08 (96.23%); 1H NMR (DMSO-d6) δ 2.09 (s, 3H), 2.22-2.28 (m, 1H), 2.73-2.95 (m, 3H), 3.47 (s, 3H), 4.86 (d, J=5.7 Hz, 2H), 7.98-8.04 (m, 3H), 8.25 (d, J=8.7 Hz, 2H), 8.32 (d, J=8.7 Hz, 2H), 9.58 (t, J=5.7 Hz, 1H), 11.21 (s, 1H); 13C NMR (DMSO-d6) δ 23.0, 30.6, 31.1, 44.8, 45.6, 60.8, 123.7, 125.2, 129.2, 130.3, 131.7, 133.4, 135.5, 140.4, 145.2, 149.0, 167.2, 169.7, 169.9, 174.1, 174.2; Anal. Calcd for C23H21N3O7S+0.3H2O: C, 56.50; H, 4.45; N, 8.59. Found: C, 56.61; H, 4.42; N, 8.30.

reactant | 4-(methylsulfonyl)benzoic acid | 2.0 mmol, 0.40 g | CS(=O)(=O)C1=CC=C(C(=O)O)C=C1 | C8H8O4S
reactant | CDI | 2.2 mmol, 0.36 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 5-aminomethyl-2-[(3S)-3-methyl-2,6-dioxo-piperidin-3-yl]-isoindole-1,3-dione hydrochloride | 2.0 mmol, 0.67 g | Cl.NCC=1C=C2C(N(C(C2=CC1)=O)[C@@]1(C(NC(CC1)=O)=O)C)=O
reactant | CH3CN | CC#N | C2H3N
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | N-[[2-[(3S)-3-METHYL-2,6-DIOXOPIPERIDIN-3-YL]-1,3-DIOXOISOINDOLIN-5-YL]METHYL]-4-(METHYLSULFONYL) BENZAMIDE | 32% yield | C[C@]1(C(NC(CC1)=O)=O)N1C(C2=CC=C(C=C2C1=O)CNC(C1=CC=C(C=C1)S(=O)(=O)C)=O)=O | C23H21N3O7S
